US08304557B2
tert-butyl {2-fluoro-5-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate
In the same manner as in Reference Example 33 and using tert-butyl (2-fluoro-5-hydroxyphenyl)carbamate (22.4 g, 98.4 mmol), 5-bromo-2-nitropyridine (16.7 g, 82.0 mmol), cesium carbonate (40.1 g, 123 mmol) and N,N-dimethylformamide (140 mL) as starting materials, the title compound (14.2 g, 50%) was obtained as a yellow oil.

reactant | tert-butyl (2-fluoro-5-hydroxyphenyl)carbamate | 98.4 mmol, 22.4 g | FC1=C(C=C(C=C1)O)NC(OC(C)(C)C)=O | C11H14FNO3
reactant | 5-bromo-2-nitropyridine | 82.0 mmol, 16.7 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | cesium carbonate | 123 mmol, 40.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 140 mL | CN(C=O)C | C3H7NO
product | tert-butyl {2-fluoro-5-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate | 14.2 g, 50% | FC1=C(C=C(C=C1)OC=1C=NC(=CC1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C16H16FN3O5
